* 555 Timer behavioral model -- 555.cir
*
*           Ground
*           | Trigger
*           | | Output
*           | | | Reset
*           | | | | Control
*           | | | | | Threshold
*           | | | | | | Discharge
*           | | | | | | | Vcc
*           | | | | | | | |
.subckt 555 1 2 3 4 5 6 7 8 

R1  8  5 5000
R2  5 10 5000
R3 10  1 5000

X1  6 5 11 b_op_amp        $ the reset comparitor
X2 10 2 12 b_op_amp        $ the set comparitor


*        R  S    R  S
abridge [11 12] [22 21] adc_buff $ bridge from comparitors to set reset controls

a0 z1 pulldown1            $ pull-down for unused clock and data

*  data clock set reset q   qbar
a1  z1    z1   21   25  23   24  flop1  $ the flip flop


abridge1 [24] [13] dac1    $ bridge qbar to discharge timing cap, turn on Q1
abridge2 [23]  [3] dac1    $ bridge q to pin 3

Q1 7  13 1 N               $ the discharge transistor


* Here is the active low master reset function from pin 4.

abridge3 [4] [30] adc_buff $ bridge pin 4 to digital

a2 30 31 inv1

a3 [22 31] 25 or1

* Models

* Behavioral op-amp model using XSPICE

.subckt b_op_amp 1 2 4  p_supply=5.0 m_supply=-5.0

a2 [1 2] 3 sum1
.model sum1 summer(in_offset=[0 0]  in_gain=[1.0 -1.0]  out_gain=100000 out_offset=-0.001)

a5 3 4 limit5
.model limit5 limit(in_offset=0.1 gain=1.0 out_lower_limit= {m_supply}
+ out_upper_limit={p_supply} limit_range=0.0010 fraction=FALSE)

.ends

.model adc_buff adc_bridge(in_low = 0.3 in_high = 3.5)

.model flop1 d_dff(clk_delay = 13.0e-9 set_delay = 25.0e-9
+ reset_delay = 27.0e-9 ic = 2 rise_delay = 10.0e-9
+ fall_delay = 3e-9)

.model pulldown1 d_pulldown(load = 20.0e-12)

.model dac1 dac_bridge(out_low = 0.1 out_high = 4.9 out_undef = 2.2
+ input_load = 5.0e-12 t_rise = 50e-9
+ t_fall = 20e-9)

.model N NPN

.model inv1 d_inverter(rise_delay = 0.5e-9 fall_delay = 0.3e-9
+ input_load = 0.5e-12)

.model or1 d_or(rise_delay = 0.5e-9 fall_delay = 0.3e-9
+ input_load = 0.5e-12)

.ends
